US05055481
(1-5) Methyl 5-(2-methylphenyl)-1-tetrazoleacetate
Feed materials: 5-(2-methylphenyl)tetrazole and methyl chloroacetate.

reactant | 5-(2-methylphenyl)tetrazole | CC1=C(C=CC=C1)C1=NN=NN1 | C8H8N4
reactant | methyl chloroacetate | ClCC(=O)OC | C3H5ClO2
product | Methyl 5-(2-methylphenyl)-1-tetrazoleacetate | CC1=C(C=CC=C1)C1=NN=NN1CC(=O)OC | C11H12N4O2
